US03973017
A solution of 23.4 g. (0.20 moles) of 3-thiomorpholinone in 150 ml. dry CH2Cl2 is added dropwise with stirring to a solution of 44 grams of triethyloxonium fluoroborate in 100 ml. of CH2Cl2 maintained at 0°-5°C. Stirring is continued for six hours as temperature is allowed to come to 25°C; K2CO3 (46 g.) is added and the methylene chloride solution is decanted and the residue of K2CO3 is washed with CH2Cl2. The combined organic solutions are dried over anhydrous K2CO3, filtered and solvent evaporated. Distillation of the concentrate gives 17.9 g. of the lactam ether. The lactam ether is added to a solution of 24.6 grams (0.12 moles) of 2-bromo-ethylamine hydrobromide in 150 ml. absolute ethanol and the resulting solution heated on a steam bath for two hours. The solvent is evaporated and the residue washed with ether. The resulting crystalline material is washed with acetone and air dried under suction. The crude crystalline product (28.5 g.) is dissolved in 200 ml. ethanol and sodium methoxide (.07 mole in 50 ml. methanol is added; the resulting solution is heated under reflux with stirring for two hours prior to evaporation of the solvent under reduced pressure. To the residue is added 75 ml. water and the solution made basic with potassium carbonate; the basic solution is extracted with chloroform (3 × 100 ml.). The combined extracts are dried over anhydrous Na2SO4, filtered and the solvent evaporated. Distillation of the concentrate gives 2,3,5,6-tetrahydro-8H-imidazo[2,1-c] [1,4] thiazine (11.3 g.). The hydrochloride and oxalate salts are prepared, respectively, by dissolving 1 g. of the product in the minimum volume of absolute ethanol at 45°C. and adding dropwise an aqueous 1 molar solution of the respective acid; the resulting salts are collected by filtration, washed with ethanol and dried.

reactant | 3-thiomorpholinone | 0.20 moles | N1C(CSCC1)=O | C4H7NOS
reactant | triethyloxonium fluoroborate | 44 grams | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | K2CO3 | 46 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-ethylamine hydrobromide | 0.12 moles, 24.6 grams | Br.BrCCN
solvent | ethanol | C(C)O | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,3,5,6-tetrahydro-8H-imidazo[2,1-c] [1,4] thiazine | 11.3 g | N=1CCN2C1CSCC2 | C6H10N2S
